US03948973
A solution of 6.1 g. (0.0242 mole) of boron tribromide in 25 ml. of methylene dichloride was added dropwise to a stirred solution of 6.1 g. (0.0264 mole) of p-(2,2-dichloro-1-methylcyclopropyl)anisole in 25 ml. of methylene dichloride cooled in an ice bath. The reaction mixture was stirred at 0° for one hour, then the ice bath was removed and the mixture stirred for an additional one hour. The reaction mixture was quenched in ice water and the layers separated. The aqueous layer was extracted with methylene dichloride, and the combined methylene dichloride solutions were washed with water and with dilute sodium hydroxide solution. At this point the sodium salt of p-(2,2-dichloro-1-methylcyclopropyl)phenol separated and was collected by filtration. The filter cake was combined with the original aqueous layer and acidified with concentrated hydrochloric acid. The acidified solution was extracted with ether and the ether dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was recrystallized from carbon tetrachloride to give p-(2,2-dichloro-1-methylcyclopropyl)phenol, m.p. 125°-126°C.

reactant | boron tribromide | 0.0242 mole | B(Br)(Br)Br | BBr3
reactant | p-(2,2-dichloro-1-methylcyclopropyl)anisole | 0.0264 mole | ClC1(C(C1)(C)C1=CC=C(C=C1)OC)Cl | C11H12Cl2O
solvent | methylene dichloride | C(Cl)Cl | CH2Cl2
product | p-(2,2-dichloro-1-methylcyclopropyl)phenol | ClC1(C(C1)(C)C1=CC=C(C=C1)O)Cl | C10H10Cl2O
